US09422331B2
To a rt solution of tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (308 mg, 974 μmol) in DMF (2.43 ml) was added 1-(chloromethyl)-2-methylnaphthalene (223 mg, 1.17 mmol) and cesiuim carbonate (952 mg, 2.92 mmol). The reaction was stirred at rt for 2 h, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (364 mg, 80% yield) as an off-white oil. MS m/z 493 (MNa)+.

reactant | tert-butyl(3S,4S)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 974 μmol, 308 mg | C(#N)C1=CC2=C(NC([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)C=C1 | C16H20N4O3
reactant | 1-(chloromethyl)-2-methylnaphthalene | 1.17 mmol, 223 mg | ClCC1=C(C=CC2=CC=CC=C12)C | C12H11Cl
reactant | carbonate | 2.92 mmol, 952 mg | C([O-])([O-])=O
solvent | DMF | 2.43 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 364 mg, 80% yield | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2)C)NC(OC(C)(C)C)=O)=O)CC2=C(C=CC3=CC=CC=C23)C)C=C1 | C28H30N4O3
